US04835318
Under protective gas, 35 g (0.25 mol) of benzoyl chloride in 150 ml of CH2Cl2 are initially introduced at about -20° C. into a round-bottomed flask. 67 g (0.27 mol) of pentafluoroethyl iodide are first condensed in and 66.7 g (0.27 mol) of phosphorous acid trisdiethylamide are then metered in. The reaction mixture is subsequently stirred at 0° C. for 5 hours more. After addition of the same volume of hexane to the reaction mixture, 2 phases are formed. After phase separation, the lower phase is carefully extracted using hexane; the combined hexane phases are concentrated and distilled under reduced pressure. 20.8 g (58% yield) of pentafluoroethyl phenyl ketone of b.p. 76-77/40 mbar are obtained.

reactant | benzoyl chloride | 0.25 mol, 35 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pentafluoroethyl iodide | 0.27 mol, 67 g | FC(C(F)(F)F)(F)I | C2F5I
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | pentafluoroethyl phenyl ketone | 20.8 g, 58% yield | C1(=CC=CC=C1)C(=O)C(C(F)(F)F)(F)F | C9H5F5O
